### PR TITLE
[Merged by Bors] - chore(LinearAlgebra/TensorProduct): remove `zero` step from `TensorProduct.induction_on`

### PR DESCRIPTION
**Pull request by JX-Mo**
1) Deprecate + rename in Mathlib.LinearAlgebra.TensorProduct.Defs.lean
```
@[deprecated "Use `TensorProduction.inductionOn` instead" (since := "2026-09-07")]
protected theorem induction_on {motive : M ⊗[R] N → Prop} (z : M ⊗[R] N)
```

```
@[elab_as_elim, induction_eliminator]
protected theorem inductionOn {motive : M ⊗[R] N → Prop} (z : M ⊗[R] N)
    (tmul : ∀ x y, motive <| x ⊗ₜ[R] y)
    (add : ∀ x y, motive x → motive y → motive (x + y)) : motive z :=
```
2) Remove `zero` from `IsTensorProduct.inductionOn` `IsBaseChange.inductionOn` in Mathlib.RingTheory.IsTensorProduct.lean

[#mathlib4 > Redundant "zero" step in TensorProduct.induction_on @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Redundant.20.22zero.22.20step.20in.20TensorProduct.2Einduction_on/near/614858536)

### CODE REVIEW

**Comment by JX-Mo** [comment]
LLM-generated

**Comment by JX-Mo** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/2f83ed57391549e607d99b7d0b43abf2efb66888?reference=5aedf732b6987e8c26ab3c9ebc855314f82b045f) for 2f83ed57391549e607d99b7d0b43abf2efb66888 against 5aedf732b6987e8c26ab3c9ebc855314f82b045f are in. There are significant results. @JX-Mo

- 🟥 [`main`](https://radar.lean-lang.org/repos/mathlib4/commits/2f83ed57391549e607d99b7d0b43abf2efb66888/runs/main) exited with code **1**

No significant changes detected.

**Comment by JX-Mo** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/bbac3e64864f561345b3556d7bce223ab8585894?reference=5aedf732b6987e8c26ab3c9ebc855314f82b045f) for bbac3e64864f561345b3556d7bce223ab8585894 against 5aedf732b6987e8c26ab3c9ebc855314f82b045f are in. There are significant results. @JX-Mo

- ✅ `build//instructions`: **-67.0G** (**-0.05%**)

**Medium changes (4✅)**

- ✅ `build/module/Mathlib.Algebra.Lie.Derivation.BaseChange//instructions`: **-2.1G** (**-11.02%**)
- ✅ `build/module/Mathlib.Analysis.InnerProductSpace.TensorProduct//instructions`: **-6.2G** (**-4.43%**)
- ✅ `build/module/Mathlib.RingTheory.Grassmannian//instructions`: **-2.4G** (**-10.88%**)
- ✅ `build/module/Mathlib.RingTheory.MatrixAlgebra//instructions`: **-3.6G** (**-9.66%**)

**Small changes (20✅)**

- ✅ `build/module/Mathlib.Algebra.Category.ModuleCat.ChangeOfRings//instructions`: **-2.3G** (**-2.09%**)
- ✅ `build/module/Mathlib.Algebra.Lie.BaseChange//instructions`: **-2.6G** (**-7.40%**) (reduced significance based on *//lines)
- ✅ `build/module/Mathlib.Algebra.Lie.Loop//instructions`: **-2.2G** (**-6.31%**)
- ✅ `build/module/Mathlib.Algebra.Module.CharacterModule//instructions`: **-635.8M** (**-2.60%**)
- ✅ `build/module/Mathlib.LinearAlgebra.Dual.Lemmas//instructions`: **-2.4G** (**-3.04%**)
- ✅ `build/module/Mathlib.LinearAlgebra.TensorProduct.Associator//instructions`: **-765.6M** (**-1.31%**)
- ✅ `build/module/Mathlib.LinearAlgebra.TensorProduct.Basic//instructions`: **-690.9M** (**-1.97%**)
- ✅ `build/module/Mathlib.LinearAlgebra.TensorProduct.Prod//instructions`: **-747.0M** (**-4.44%**)
- ✅ `build/module/Mathlib.LinearAlgebra.TensorProduct.RightExactness//instructions`: **-1.2G** (**-2.89%**)
- ✅ `build/module/Mathlib.NumberTheory.Padics.Measure.Basic//instructions`: **-719.7M** (**-2.14%**)
- ✅ `build/module/Mathlib.RingTheory.Coalgebra.TensorProduct//instructions`: **-1.6G** (**-2.90%**)
- ✅ `build/module/Mathlib.RingTheory.Etale.Kaehler//instructions`: **-2.1G** (**-2.85%**)
- ✅ `build/module/Mathlib.RingTheory.Flat.Basic//instructions`: **-1.7G** (**-4.50%**)
- ✅ `build/module/Mathlib.RingTheory.Ideal.CotangentBaseChange//instructions`: **-681.5M** (**-3.58%**)
- ✅ `build/module/Mathlib.RingTheory.Ideal.Quotient.ChineseRemainder//instructions`: **-569.0M** (**-4.41%**)
- ✅ `build/module/Mathlib.RingTheory.IsTensorProduct//instructions`: **-4.5G** (**-3.80%**)
- ✅ `build/module/Mathlib.RingTheory.Kaehler.TensorProduct//instructions`: **-5.1G** (**-8.75%**) (reduced significance based on *//lines)
- ✅ `build/module/Mathlib.RingTheory.TensorProduct.Basic//instructions`: **-2.0G** (**-2.34%**)
- ✅ `build/module/Mathlib.RingTheory.TensorProduct.Pi//instructions`: **-1.4G** (**-8.89%**)
- ✅ `build/module/Mathlib.RingTheory.Unramified.Finite//instructions`: **-1.1G** (**-4.12%**)

File: Mathlib/LinearAlgebra/TensorProduct/Defs.lean
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct/Defs.lean]: Can you move this after `inductionOn` and prove it in terms of that one?

**Review by eric-wieser — APPROVED** [review]

File: Mathlib/LinearAlgebra/TensorProduct/Defs.lean
Comment (JX-Mo) [reply Mathlib/LinearAlgebra/TensorProduct/Defs.lean]: Moved. Thanks!

File: Mathlib/LinearAlgebra/TensorProduct/Defs.lean [hunk 1]
```diff
@@ -141,14 +131,31 @@ theorem tmul_zero (m : M) : m ⊗ₜ[R] (0 : N) = 0 :=
 theorem tmul_add (m : M) (n₁ n₂ : N) : m ⊗ₜ (n₁ + n₂) = m ⊗ₜ n₁ + m ⊗ₜ[R] n₂ :=
   Eq.symm <| Quotient.sound' <| AddConGen.Rel.of _ _ <| Eqv.of_add_right _ _ _
 
+@[elab_as_elim, induction_eliminator]
+protected theorem inductionOn {motive : M ⊗[R] N → Prop} (z : M ⊗[R] N)
+    (tmul : ∀ x y, motive <| x ⊗ₜ[R] y)
+    (add : ∀ x y, motive x → motive y → motive (x + y)) : motive z :=
+  AddCon.induction_on z fun x =>
+    FreeAddMonoid.recOn x (by convert (tmul 0 0); simp; rfl) fun ⟨m, n⟩ y ih => by
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/TensorProduct/Defs.lean]:
```suggestion
    FreeAddMonoid.recOn x (by simpa using! tmul 0 0) fun ⟨m, n⟩ y ih ↦ by
```

File: Mathlib/LinearAlgebra/TensorProduct/Defs.lean [hunk 2]
```diff
@@ -141,14 +131,31 @@ theorem tmul_zero (m : M) : m ⊗ₜ[R] (0 : N) = 0 :=
 theorem tmul_add (m : M) (n₁ n₂ : N) : m ⊗ₜ (n₁ + n₂) = m ⊗ₜ n₁ + m ⊗ₜ[R] n₂ :=
   Eq.symm <| Quotient.sound' <| AddConGen.Rel.of _ _ <| Eqv.of_add_right _ _ _
 
+@[elab_as_elim, induction_eliminator]
+protected theorem inductionOn {motive : M ⊗[R] N → Prop} (z : M ⊗[R] N)
+    (tmul : ∀ x y, motive <| x ⊗ₜ[R] y)
+    (add : ∀ x y, motive x → motive y → motive (x + y)) : motive z :=
+  AddCon.induction_on z fun x =>
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/TensorProduct/Defs.lean:138]:
```suggestion
  AddCon.induction_on z fun x ↦
```

**Comment by eric-wieser** [comment]
Note that there is some discussion on zulip about `inductionOn` vs `induction_on`. My feeling is that the new name is slightly better, but it would be reasonable to argue that it does not belong in this PR.

File: Mathlib/LinearAlgebra/TensorProduct/Defs.lean (hunk 2 above)
Comment (JX-Mo) [reply Mathlib/LinearAlgebra/TensorProduct/Defs.lean:138]: What is the convention on this? I am confused.

Comment (JX-Mo) [reply Mathlib/LinearAlgebra/TensorProduct/Defs.lean:138]: I feel like people using the two randomly

Comment (themathqueen) [reply Mathlib/LinearAlgebra/TensorProduct/Defs.lean:138]: I think the `↦` is usually preferred, but I don't think there's a consensus on this?

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/TensorProduct/Defs.lean:138]: I think the current consensus is "author decides, not worth spending time in review on, try to match the immediately adjacent style if possible"

File: Mathlib/LinearAlgebra/TensorProduct/Defs.lean (hunk 1 above)
Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/TensorProduct/Defs.lean]: I don't think this is actually a big improvement, both the terminal `rfl` and `simpa using!` are at semireducible transparency

Comment (themathqueen) [reply Mathlib/LinearAlgebra/TensorProduct/Defs.lean]: I still think it's better than `convert; simp; rfl`

Comment (JX-Mo) [reply Mathlib/LinearAlgebra/TensorProduct/Defs.lean]: I think it is of some value. If `transparency` gets updated somewhere we might have `simp` closing the goal with troublesome ending `rfl` error. I think `simpa using! tmul 0 0` seems more stable

File: Mathlib/LinearAlgebra/TensorProduct/Defs.lean (hunk 2 above)
Comment (JX-Mo) [reply Mathlib/LinearAlgebra/TensorProduct/Defs.lean:138]: The adjacent rule is awkward here though... The most adjacent ones are line 153 158 using `↦` while elsewhere in the same file uses the other way.

Comment (JX-Mo) [reply Mathlib/LinearAlgebra/TensorProduct/Defs.lean:138]: I set them to "=>" uniformly. Personally, I'd like to use `=>` if the target has type Prop, otherwise `↦`.

File: Mathlib/LinearAlgebra/TensorProduct/Defs.lean [hunk 3]
```diff
@@ -141,14 +131,31 @@ theorem tmul_zero (m : M) : m ⊗ₜ[R] (0 : N) = 0 :=
...
+protected theorem induction_on {motive : M ⊗[R] N → Prop} (z : M ⊗[R] N)
+    (zero : motive 0)
+    (tmul : ∀ x y, motive <| x ⊗ₜ[R] y)
+    (add : ∀ x y, motive x → motive y → motive (x + y)) : motive z :=
+  TensorProduct.inductionOn z tmul add
+
 instance uniqueLeft [Subsingleton M] : Unique (M ⊗[R] N) where
   default := 0
-  uniq z := z.induction_on rfl (fun x y ↦ by rw [Subsingleton.elim x 0, zero_tmul]) <| by
+  uniq z := z.inductionOn (fun x y => by rw [Subsingleton.elim x 0, zero_tmul]) <| by
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/TensorProduct/Defs.lean]: Yeah definitely don't change them to `=>`. The reason most of the code is `=>` is because we used to always only write that way until (probably) late last year (when we got the VSCode shorthand to do `↦` by writing `/ma` instead of `/mapsto`)?
```suggestion
  uniq z := z.inductionOn (fun x y ↦ by rw [Subsingleton.elim x 0, zero_tmul]) <| by
```

Comment (JX-Mo) [reply Mathlib/LinearAlgebra/TensorProduct/Defs.lean]: If this principle applies, we should change all to `↦`, right? That would require much more to change and you may open another PR to do this across the whole Mathlib.

As a new member this year, I don't quite know about the history. But here is a reason for my preference: when we write latex, `=>` means "implies" and `↦` means "maps to"

Comment (themathqueen) [reply Mathlib/LinearAlgebra/TensorProduct/Defs.lean]: No, don't change all `=>` to `↦`. Basically don't change old style unless discussed and agreed on Zulip.
I understand that preference though. You'll get used to it 😅

Comment (JX-Mo) [reply Mathlib/LinearAlgebra/TensorProduct/Defs.lean]: > Basically don't change old style unless discussed and agreed on Zulip. I understand that preference though. You'll get used to it 😅

No, I am more confused since you suggested to change the old style first in the previous slot

Comment (themathqueen) [reply Mathlib/LinearAlgebra/TensorProduct/Defs.lean]: It was new code, so I thought it was fine to suggest it. But you know what, forget about it! Just keep it as it was.

Comment (JX-Mo) [reply Mathlib/LinearAlgebra/TensorProduct/Defs.lean]: AddCon.induction_on z fun x =>
  AddCon.induction_on z fun x ↦
  This `=>` is the old style. You can check the old proof of `induction_on`

Comment (themathqueen) [reply Mathlib/LinearAlgebra/TensorProduct/Defs.lean]: Right, my bad then. I thought it was new code!

File: Mathlib/LinearAlgebra/TensorProduct/Defs.lean [hunk 4]
```diff
@@ -141,14 +131,31 @@ theorem tmul_zero (m : M) : m ⊗ₜ[R] (0 : N) = 0 :=
...
     rintro _ _ rfl rfl; apply add_zero
 
 instance uniqueRight [Subsingleton N] : Unique (M ⊗[R] N) where
   default := 0
-  uniq z := z.induction_on rfl (fun x y ↦ by rw [Subsingleton.elim y 0, tmul_zero]) <| by
+  uniq z := z.inductionOn (fun x y => by rw [Subsingleton.elim y 0, tmul_zero]) <| by
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/TensorProduct/Defs.lean]: just please revert the `=>` change here

**Review by themathqueen — APPROVED** [review]
Looks good, thanks!

File: Mathlib/LinearAlgebra/TensorProduct/Defs.lean (hunk 4 above)
Comment (JX-Mo) [reply Mathlib/LinearAlgebra/TensorProduct/Defs.lean]: No problem : )

File: Mathlib/LinearAlgebra/TensorProduct/Defs.lean [hunk 5]
```diff
@@ -141,14 +131,31 @@ theorem tmul_zero (m : M) : m ⊗ₜ[R] (0 : N) = 0 :=
...
   Eq.symm <| Quotient.sound' <| AddConGen.Rel.of _ _ <| Eqv.of_add_right _ _ _
 
+@[elab_as_elim, induction_eliminator]
+protected theorem inductionOn {motive : M ⊗[R] N → Prop} (z : M ⊗[R] N)
+    (tmul : ∀ x y, motive <| x ⊗ₜ[R] y)
+    (add : ∀ x y, motive x → motive y → motive (x + y)) : motive z :=
+  AddCon.induction_on z fun x =>
+    FreeAddMonoid.recOn x (by simpa using! tmul 0 0) fun ⟨m, n⟩ y ih => by
+      rw [AddCon.coe_add]
+      exact add _ _ (tmul ..) ih
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/TensorProduct/Defs.lean]: you could similarly do this here (optional)
```suggestion
      simpa using! add _ _ (tmul ..) ih
```

**Review by themathqueen — COMMENTED** [review]
Thanks!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada: Great golf! 🏌️ 

bors merge
